US08633186B2
3-hydroxy-N,2,2-trimethylpropanamide
Prepared as in Example 215d from methyl 3-hydroxy-2,2-dimethylpropanoate and methylamine in 51% yield. MS 132 (MH+).

reactant | methyl 3-hydroxy-2,2-dimethylpropanoate | OCC(C(=O)OC)(C)C | C6H12O3
reactant | methylamine | CN | CH5N
product | 3-hydroxy-N,2,2-trimethylpropanamide | 51% yield | OCC(C(=O)NC)(C)C | C6H13NO2
